US08440693B2
Intermediate 75.1: (4-Isopropoxy-3-methoxy-phenyl)-acetic acid ethyl ester
A mixture of ethyl (4-hydroxy-3-methoxy-phenyl)-acetic acid ethyl ester (11.22 g, 53.4 mmol) and K2CO3 (22.13 g, 160 mmol) in DMF (100 ml) was heated at 60° C. 2-Iodopropane (9.06 ml, 91 mmol) was added and the mixture was vigorously stirred at 60° C. for 5 h. The reaction mixture was cooled to RT, diluted with AcOEt and washed with water. The aqueous phase was separated and further extracted with AcOEt. The combined organic fractions were dried over Na2SO4, filtered and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, heptane/AcOEt 98:2→3:1) to yield the title compound (11.94 g, 47.3 mmol, 89%) as a colorless oil. TLC: RF=0.44 (heptane/AcOEt 7:3); HPLC: AtRet=2.14 min; LC-MS: m/z 253.4 [M+H]+; 1H NMR (400 MHz, CDCl3): 1.28 (t, J=7.1, 3H), 1.38 (d, J=6.1, 6H), 3.56 (s, 2H), 3.87 (s, 3H), 4.17 (q, J=7.1, 2H), 4.50 (h, J=6.1, 1H), 6.77-6.89 (m, 3H).

reactant | ethyl (4-hydroxy-3-methoxy-phenyl)-acetic acid ethyl ester | 53.4 mmol, 11.22 g | C(C)OC(C(C1=CC(=C(C=C1)O)OC)CC)=O | C13H18O4
reactant | K2CO3 | 160 mmol, 22.13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Iodopropane | 91 mmol, 9.06 ml | IC(C)C | C3H7I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (4-Isopropoxy-3-methoxy-phenyl)-acetic acid ethyl ester | 47.3 mmol, 11.94 g, 89% | C(C)OC(CC1=CC(=C(C=C1)OC(C)C)OC)=O | C14H20O4
